US07432262B2
(R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-cyanomethyl-6-(quinolin-2-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione
A solution of 0.14 g 1-(but-2-ynyl)-2-chloro-5-cyanomethyl-6-(quinolin-2-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione, 0.15 g potassium carbonate and 0.07 g (R)-3-tert-butoxycarbonylaminopiperidine in 2 ml dimethylsulphoxide is stirred for 5 h at 60° C. Then water is added and the mixture is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulphate, and then the solvent is removed. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 1:1).

reactant | 1-(but-2-ynyl)-2-chloro-5-cyanomethyl-6-(quinolin-2-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | 0.14 g | C(C#CC)N1C(=NC2=C1C(N(N(C2=O)CC#N)CC2=NC1=CC=CC=C1C=C2)=O)Cl | C21H15ClN6O2
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-3-tert-butoxycarbonylaminopiperidine | 0.07 g | C(C)(C)(C)OC(=O)N[C@H]1CNCCC1 | C10H20N2O2
reactant | water | O | H2O
solvent | dimethylsulphoxide | 2 ml | CS(=O)C | C2H6OS
product | (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-cyanomethyl-6-(quinolin-2-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | C(C#CC)N1C(=NC2=C1C(N(N(C2=O)CC#N)CC2=NC1=CC=CC=C1C=C2)=O)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C31H34N8O4
